US07094908B2
Ethyl 2-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate was prepared (126 mg, 28%) in the same manner as described in the above example 6 (20) from ethyl 3-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.52 g, 1.33 mmol) and p-toluenesulfonic acid monohydrate (50 mg), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 1.33 mmol, 0.52 g | C(C)(C)(C)C=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C21H27NO6
reactant | p-toluenesulfonic acid monohydrate | 50 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 2-(5-t-butyl-1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-3-oxo-butyrate | C(C)(C)(C)C=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OCC)C(C)=O)=O | C19H23NO5
